### PR TITLE
utils: reconcile relation closures from vanilla Coq and relation-algebra (relation-algebra missing pieces)

### PR DESCRIPTION
**Pull request by eupp**
Add lemmas to bridge `clos_refl`, `clos_trans`, etc (from vanilla Coq library) with their counterparts from relation-algebra

---
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/64)

### CODE REVIEW

**Comment by anton-trunov** [comment]
If we decide to go with suggestions from PR #65 then several proofs here can be simplified a bit because the reflexivity `r_refl` lemma could be applied implicitly, so things like `first exact: r_refl` could be safely dropped.

File: utilities.v [hunk 1]
```diff
@@ -239,17 +239,76 @@ End ReflexiveClosure.
...
+Qed.
+
+(* TODO: consider to reformulate it in terms of relation-algebra 
+ * (or try to just use kat tactics inplace) 
+ *)
+Lemma clos_t_clos_rt R x y :
+  clos_trans T R x y -> clos_refl_trans T R x y.
+Proof.
+  elim=> [|???? H ??]; first by constructor.
+  by apply /rt_trans; first exact: H.
```
Comment (anton-trunov) [inline utilities.v:267]: `apply:` supports searching for proofs in the context, hence we can ask it to take `H` as the first half of the proof of transitivity and once the existential variables get instantiated, look for the other half in the context.  
```suggestion
  by apply: rt_trans H _.
```
